US07291631B2
A mixture of (4-amino-butyl)-methyl-carbamic acid tert-butyl ester (0.202 g, 1.00 mmol), 3-fluoro-pyridine-2-carbaldehyde (0.125 g, 1.00 mmol) and K2CO3 (0.138 g, 1.00) in MeOH (5 mL) was stirred for 16 h. The mixture was filtered through a celite cake and NaBH4 (0.050 g, 1.3 mmol) was added to the filtrate, and the mixture was stirred for 30 min. Saturated aqueous NaHCO3 (20 mL) was added, and MeOH was removed. The aqueous residue was extracted with CH2Cl2 (3×30 mL). The organic extracts were combined and dried over anhydrous Na2SO4. After filtration the solvent was removed by evaporation under vacuum, and the residue was purified by flash chromatography on a silica gel column (50:2:1 CH2Cl2/MeOH/NH4OH), affording {4-[(3-fluoro-pyridin-2-ylmethyl)-amino]-butyl}-methyl-carbamic acid tert-butyl ester as a colorless oil (0.230 g, 74%). 1H NMR (CDCl3) δ 1.42 (s, 9H), 1.48-1.54 (m, 4H), 2.61-2.68 (m, 2H), 2.80 (s, 3H), 3.14-3.22 (m, 2H), 3.96 (s, 2H), 7.11-7.20 (m, 1H), 7.30-7.36 (m, 1H), 8.33-8.38 (m, 1H).

reactant | (4-amino-butyl)-methyl-carbamic acid tert-butyl ester | 1.00 mmol, 0.202 g | C(C)(C)(C)OC(N(C)CCCCN)=O | C10H22N2O2
reactant | 3-fluoro-pyridine-2-carbaldehyde | 1.00 mmol, 0.125 g | FC=1C(=NC=CC1)C=O | C6H4FNO
reactant | K2CO3 | 0.138 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaBH4 | 1.3 mmol, 0.050 g | [BH4-].[Na+]
reactant | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
solvent | MeOH | 5 mL | CO | CH4O
product | {4-[(3-fluoro-pyridin-2-ylmethyl)-amino]-butyl}-methyl-carbamic acid tert-butyl ester | 0.230 g, 74% | C(C)(C)(C)OC(N(C)CCCCNCC1=NC=CC=C1F)=O | C16H26FN3O2
